US05332757
Using an analogous procedure to that described in Example 50, 6-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]pyrid-3-yl methyl ketone was reacted with hydroxylamine hydrochloride to give 6-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]pyrid-3-yl methyl ketone oxime in 96% yield.

reactant | 6-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]pyrid-3-yl methyl ketone | CC(=O)C=1C=NC(=CC1)S(=O)(=O)C1=CC(=CC(=C1)F)C1(CCOCC1)OC | C19H20FNO5S
reactant | hydroxylamine hydrochloride | Cl.NO
product | 6-[5-fluoro-3-(4-methoxytetrahydropyran-4-yl)phenylsulphonyl]pyrid-3-yl methyl ketone oxime | 96% yield | CC(C=1C=NC(=CC1)S(=O)(=O)C1=CC(=CC(=C1)F)C1(CCOCC1)OC)=NO | C19H21FN2O5S
